US09359338B2
Step 4: Synthesis of (3-bromo-5-(trifluoromethyl)phenyl)(1-methylpiperidin-4-yl)methanone
Stir the mixture of (3-bromo-5-(trifluoromethyl)phenyl)(piperidin-4-yl)methanone (400 mg, 0.96 mmol), formic acid (1 mL) and formaldehyde (1 mL) at 100° C. overnight. Upon the reaction completion, concentrate under reduced pressure to provide the crude product (250 mg, 77%) which is used in next step without further purification.

reactant | (3-bromo-5-(trifluoromethyl)phenyl)(piperidin-4-yl)methanone | 0.96 mmol, 400 mg | BrC=1C=C(C=C(C1)C(F)(F)F)C(=O)C1CCNCC1 | C13H13BrF3NO
reactant | formaldehyde | 1 mL | C=O | CH2O
solvent | formic acid | 1 mL | C(=O)O | CH2O2
product | (3-bromo-5-(trifluoromethyl)phenyl)(1-methylpiperidin-4-yl)methanone | 250 mg, 77% | BrC=1C=C(C=C(C1)C(F)(F)F)C(=O)C1CCN(CC1)C | C14H15BrF3NO
